US06140330
To chloroform (200 ml) are added ethyl α-[2-methoxy-4-(2-bromoacetyl)phenoxy]acetate (20 g) and triphenylphosphine (20.6 g) in an ice-bath, and the mixture is stirred for one hour. After confirming that the starting compounds are well consumed, the mixture is washed with an aqueous potassium carbonate solution. The mixture is dried over magnesium sulfate, and concentrated under reduced pressure to remove the solvent. To the residue is added methanol (200 ml), and thereto is added dropwise sodium hydroxide in an ice-bath. After confirming that the starting compounds are well consumed, to the mixture is added conc hydrochloric acid. The precipitated crystals are washed with water and diethyl ether, and dried to give (3-methoxy-4-carboxymethoxybenzoyl)methylenetriphenylphosphorane (25 g).

reactant | ethyl α-[2-methoxy-4-(2-bromoacetyl)phenoxy]acetate | 20 g | COC1=C(OCC(=O)OCC)C=CC(=C1)C(CBr)=O | C13H15BrO5
reactant | triphenylphosphine | 20.6 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | chloroform | 200 ml | C(Cl)(Cl)Cl | CHCl3
product | (3-methoxy-4-carboxymethoxybenzoyl)methylenetriphenylphosphorane | 25 g | COC=1C=C(C(=O)C=P(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=CC1OCC(=O)O | C29H25O5P
